US04980353
6,8-Difluoro-1,4-dihydro-4-oxo-1-(4-fluorophenyl)-7-[4-(2-oxo-propyl)-1-piperazinyl]-quinoline-3-carboxylic acid hydrochloride
0.7 g of chloroacetone and 1.05 g of triethylamine are added to 2 g of 6,8-difluoro-1,4-dihydro-4-oxo-1-(4-fluorophenyl)-7-(1-piperazinyl)-quinoline-3-carboxylic acid in 25 ml of dimethylformamide and the mixture is heated at 80° C. for 3 hours. The suspension is concentrated in vacuo and the residue is stirred with water, filtered off with suction and dried. The product is heated in 15 ml of dilute hydrochloric acid (1:1), precipitated with 30 ml of ethanol, filtered off with suction and dried.

reactant | chloroacetone | 0.7 g | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 1.05 g | C(C)N(CC)CC | C6H15N
reactant | 6,8-difluoro-1,4-dihydro-4-oxo-1-(4-fluorophenyl)-7-(1-piperazinyl)-quinoline-3-carboxylic acid | 2 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCNCC1)F)C1=CC=C(C=C1)F)C(=O)O)=O | C20H16F3N3O3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6,8-Difluoro-1,4-dihydro-4-oxo-1-(4-fluorophenyl)-7-[4-(2-oxo-propyl)-1-piperazinyl]-quinoline-3-carboxylic acid hydrochloride | Cl.FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)CC(C)=O)F)C1=CC=C(C=C1)F)C(=O)O)=O | InChI=1S/C23H20F3N3O4.ClH/c1-13(30)11-27-6-8-28(9-7-27)21-18(25)10-16-20(19(21)26)29(12-17(22(16)31)23(32)33)15-4-2-14(24)3-5-15;/h2-5,10,12H,6-9,11H2,1H3,(H,32,33);1H
